US05646173
An ozone stream (3 g ozone/hour) was conducted for 40 minutes while stirring through a solution, cooled to -70°, of 5.86 g of (RS)-2-(2-buten-1-yl)-6-methoxy-3,3-dimethyl-1-indanone in 100 ml of anhydrous dichloromethane and 20 ml of anhydrous methanol. Subsequently, the solution was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 2.64 ml of dimethyl sulfide the mixture was stirred at room temperature for 4 hours. The reaction mixture was evaporated in a vacuum. The residue was treated with 60 ml of dichloromethane and, after the addition of 10 ml of water and 10 ml of trifluoroacetic acid, stirred at room temperature for 2 hours. The mixture was subsequently poured into 100 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring An additional 50 ml of water were added. The phases were separated and the aqueous phase was extracted twice with 150 ml of dichloro-methane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. 4.94 g (89%) of (RS)-2-(2-oxoethyl)-6-methoxy-3,3-dimethyl-1-indanone were obtained as a light yellow oil.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-6-methoxy-3,3-dimethyl-1-indanone | 5.86 g | C(C=CC)C1C(C2=CC(=CC=C2C1(C)C)OC)=O | C16H20O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | (RS)-2-(2-oxoethyl)-6-methoxy-3,3-dimethyl-1-indanone | 4.94 g, 89% | O=CCC1C(C2=CC(=CC=C2C1(C)C)OC)=O | C14H16O3
